US04613611
2,2-Dihydroxy-2'-acetonaphthone
A mixture of 45.1 g of 2'-acetonaphthone, 29.4 g of selenium dioxide, 350 ml of dioxane and 7.0 ml of water was stirred, heated carefully to reflux and maintained at reflux for 3 hours. The mixture was cooled, filtered through diatomaceous earth and the filtrate evaporated in vacuo. The residue was treated with 300 ml of water and the resulting white solid collected and recrystallized from aqueous acetone giving the desired product as white crystals, mp 103°-120° C.

reactant | 2'-acetonaphthone | 45.1 g | C(C)(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
reactant | selenium dioxide | 29.4 g | [Se](=O)=O | O2Se
reactant | dioxane | 350 ml | O1CCOCC1 | C4H8O2
solvent | water | 7.0 ml | O | H2O
product | 2,2-Dihydroxy-2'-acetonaphthone | OC(C(=O)C1=CC2=CC=CC=C2C=C1)O | C12H10O3
